US06544985B2
[2-Amino-4-cyano-5-(isobutyl-methyl-amino)-phenyl]-carbamic acid tert-butyl ester
The title compound was prepared from [4-cyano-5-(isobutyl-methyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester (Example C29) (1.76 g, 5.05 mmol) by reduction with SnCl2.2H2O according to the general procedure J (method b). Obtained as a light brown solid (1.55 g, 96%).

reactant | [4-cyano-5-(isobutyl-methyl-amino)-2-nitro-phenyl]-carbamic acid tert-butyl ester | 5.05 mmol, 1.76 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C#N)[N+](=O)[O-])=O | C17H24N4O4
reactant | SnCl2.2H2O | O.O.Cl[Sn]Cl
product | [2-Amino-4-cyano-5-(isobutyl-methyl-amino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC(C)C)C#N)N)=O | C17H26N4O2
